US04251618
Preparation of 4-Acryloxybenzophenone
A 100 g quantity of 4-hydroxybenzophenone was added to 500 ml of water containing 22.0 g of sodium hydroxide. The solution was stirred until all of the benzophenone had dissolved. After the solution had cooled to 5°-10° C., there was added 45.5 g of acrylyl chloride over a period of 30 minutes, to yield a white solid which was recovered by filtration after the solution had been stirred for 2 hours at 5°-10° C. and an additional hour at room temperature. The white solid was recrystallized from ethanol and found to have m.p. 44°-46° C. Infrared and NMR spectra confirmed the structure of 4-acryloxybenzophenone.

reactant | 4-hydroxybenzophenone | OC1=CC=C(C(=O)C2=CC=CC=C2)C=C1 | C13H10O2
reactant | sodium hydroxide | [OH-].[Na+]
reactant | benzophenone | C(C1=CC=CC=C1)(=O)C1=CC=CC=C1 | C13H10O
reactant | acrylyl chloride | 45.5 g | C(C=C)(=O)Cl | C3H3ClO
solvent | water | 500 ml, 22.0 g | O | H2O
product | 4-Acryloxybenzophenone | C(C=C)(=O)OC1=CC=C(C(=O)C2=CC=CC=C2)C=C1 | C16H12O3
